US08937092B2
N-(4-Nitrobenzyl)methanesulfonamide (881 mg, 3.83 mmol) was dissolved in methanol/tetrahydrofuran (1:1, 35 mL). 10% Pd/C (264 mg, 3 eq) was added to it. The resulting mixture was stirred at room temperature for overnight under H2. TLC showed complete consumption of starting material. The mixture was filtered through celite bed and the filterate was concentrated under reduced pressure. The crude was purified by column chromatography to give N-(4-aminobenzyl)methanesulfonamide (352 mg, 46%).

reactant | N-(4-Nitrobenzyl)methanesulfonamide | 3.83 mmol, 881 mg | [N+](=O)([O-])C1=CC=C(CNS(=O)(=O)C)C=C1 | C8H10N2O4S
solvent | methanol tetrahydrofuran | 35 mL | CO.O1CCCC1
catalyst | Pd/C | 264 mg, 3 eq | [Pd] | Pd
product | N-(4-aminobenzyl)methanesulfonamide | 352 mg, 46% | NC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H12N2O2S
